US05905084
5-methoxy-3-(1,2,3,6-tetrahydropyridin-4-yl)pyrrolo[3,2-b]pyridine
A solution of 0.20 gm (1.35 mMol) of 5-methoxypyrrolo-[3,2-b]pyridine, 0.23 mg (4.05 mMol) potassium hydroxide, and 0.31 gm (2.03 mMol) 4-piperidone hydrochloride monohydrate 5 mL methanol was heated at reflux for 18 hours. The reaction mixture was then concentrated under reduced pressure and the residue partitioned between water and 3:1 chloroform:isopropanol. The organic phase was washed with saturated aqueous sodium chloride, dried over sodium sulfate and concentrated under reduced pressure. The residue was subjected to radial chromatography chromatography (2 mm silica gel plate) eluting with dichloromethane containing 20-40% methanol and 1% ammonium hydroxide. Fractions containing product were combined and concentrated under reduced pressure to provide 0.21 gm (68%) of the title compound as a yellow sold. An analytical sample was crystallized from methanol.

reactant | 5-methoxypyrrolo-[3,2-b]pyridine | 1.35 mMol, 0.20 gm | COC1=CC=C2C(=N1)C=CN2 | C8H8N2O
reactant | potassium hydroxide | 4.05 mMol, 0.23 mg | [OH-].[K+]
reactant | 4-piperidone hydrochloride monohydrate | 2.03 mMol, 5 mL, 0.31 gm | O.Cl.N1CCC(CC1)=O
product | 5-methoxy-3-(1,2,3,6-tetrahydropyridin-4-yl)pyrrolo[3,2-b]pyridine | 0.21 gm, 68% | COC1=CC=C2C(=N1)C(=CN2)C=2CCNCC2 | C13H15N3O
